US06498159B1
100 ml water and 10 ml perchloric acid were added to 100 ml solution of 6.8 g of this 6-benzyl-1-oxo-6-azaspiro[2.5]octane in tetrahydrofuran, and the mixture was stirred at room temperature for 7 hr. The mixture was ice-cooled, and aqueous sodium carbonate was added thereto to adjust the pH thereof to 7, and then the mixture was evaporated. Ethyl acetate was added to the residue, and the insoluble mattters were removed by filtration. The filtrate was evaporated, and then purified by silica gel column chromatography to give 4 g of 1-benzyl-4-(hydroxymethyl)-4-piperidinol.

reactant | water | 100 ml | O | H2O
reactant | perchloric acid | 10 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 6-benzyl-1-oxo-6-azaspiro[2.5]octane | 6.8 g | C(C1=CC=CC=C1)N1CCC2(CC2=O)CC1 | C14H17NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzyl-4-(hydroxymethyl)-4-piperidinol | 4 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)CO | C13H19NO2
